US07888364B2
120 mg of 4-(3-bromopropylsulfonyl)-2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide was used in Procedure P with morpholine to yield 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(3-morpholinopropylsulfonyl)benzamide. MS (Q1) 534.0 (M)+.

reactant | 4-(3-bromopropylsulfonyl)-2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide | 120 mg | BrCCCS(=O)(=O)C1=CC(=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1)Cl | C21H17BrCl2N2O3S
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(3-morpholinopropylsulfonyl)benzamide | ClC1=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=CC(=C1)S(=O)(=O)CCCN1CCOCC1 | C25H25Cl2N3O4S
